US09107413B2
Preparation of N-(3-(dimethylamino)phenyl)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide (Compound I-2) [Synthesis Method B]
To a 50 mL round-bottomed flask containing (E)-methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbodithioate (250 mg, 0.571 mmol) in DMF (3 mL) was added N1,N1-dimethylbenzene-1,3-diamine (195 mg, 1.43 mmol). The contents were heated at 150° C. with stirring for 5 h before the solution was allowed to cool overnight. The mixture was filtered, and the filtrate was purified via RP-HPLC to afford the desired material (235 mg, 78%) as an off-white solid: mp 192-194° C.; 1H NMR (400 MHz, DMSO-d6) δ 11.82 (s, 1H), 10.04 (s, 1H), 9.41 (s, 1H), 8.19 (s, 1H), 8.16-7.99 (m, 6H), 7.61 (d, J=8.3 Hz, 2H), 7.16 (t, J=7.2 Hz, 1H), 7.01 (m, 1H), 6.87 (m, 1H), 6.58 (m, 1H), 2.88 (s, 6H); ESIMS m/z 526 ([M+H]+).

reactant | (E)-methyl 2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbodithioate | 0.571 mmol, 250 mg | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(\C=N\NC(=S)SC)C=C1)(F)F | C18H14F3N5OS2
reactant | N1,N1-dimethylbenzene-1,3-diamine | 1.43 mmol, 195 mg | CN(C1=CC(=CC=C1)N)C | C8H12N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(3-(dimethylamino)phenyl)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide | 235 mg, 78% | CN(C=1C=C(C=CC1)NC(=S)NN=CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C25H22F3N7OS
